Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o CABG/AVR (not on anticoagulation) transferred from OSH 
s/p fall
with bilateral IPH/SAH.  Earlier today, patient was transferring 
golf clubs from the back of his car and had a syncopal event. 
+head strike. +LOC. Patient
had no preceding symptoms including chest pain, shortness of 
breath, palpitations, abdominal pain, lightheadedness or 
dizziness. Patient woke up in the ambulance. At OSH, had a CT 
scan revealing multiple small subarachnoid blood in both frontal 
lobes and a few small parenchymal hemorrhagic foci in the 
frontal lobe. Patient transferred to ___ for neurosurgery 
evaluation. 

On arrival here, he had a H/A and R thigh pain but denies CP, 
SOB, dizziness or weakness. He has never had a syncopal event 
before.
 
Past Medical History:
HTN
CABG/aortic valve replacement 
b/l TKR ___ and ___ 
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Per Trauma Surgery Admission:
VS: 97.5, 79, 163/93, 18, 98% RA 
Gen - NAD, AOx3, conversing comfortably
Heart - RRR, +systolic murmur
HEENT - R temporal hematoma, R eye ecchymosis, dried blood R 
nare, face stable
Chest - no TTP
Lungs - CTAB
Abdomen - soft, NT, ND
Back - non-tender, no step-offs
Extrem - warm, R thigh TTP, L humerus ecchymosis and TTP
Neuro - no focal neurologic deficits, CN intact

DISCHARGE PHYSICAL EXAM
GENERAL: laying in bed at about 45 degrees, appears comfortable
HEENT: purple and yellow ecchymosis around right eye, no other 
appreciable facial hematomas, no conjunctival hemorrahge
NECK: nontender supple neck, no LAD, no JVD  
HEART: Regular with occasional premature beats, no murmurs
LUNGS: Non-labored breathing, bibasilar crackles
GI: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
MSK: multiple abrasions of fingers, including fingertips of 
right hand, b/l knees with bony protuberance, no lower extremity 
edema and both BLE warm
PULSES: 2+ DP pulses bilaterally  
NEURO: A&O x3
 
Pertinent Results:
ADMISSION LABS
___ 07:50PM BLOOD WBC-6.6 RBC-3.51* Hgb-9.4* Hct-29.7* 
MCV-85 MCH-26.8 MCHC-31.6* RDW-15.3 RDWSD-46.7* Plt ___
___ 07:50PM BLOOD ___ PTT-28.5 ___
___ 07:50PM BLOOD Glucose-112* UreaN-16 Creat-0.8 Na-141 
K-4.8 Cl-102 HCO3-27 AnGap-12
___ 07:50PM BLOOD ALT-8 AST-20 AlkPhos-104 TotBili-0.3
___ 07:50PM BLOOD Albumin-2.8*
___ 07:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
___ 05:58AM BLOOD WBC-4.6 RBC-3.39* Hgb-8.9* Hct-28.8* 
MCV-85 MCH-26.3 MCHC-30.9* RDW-15.2 RDWSD-46.7* Plt ___
___ 05:58AM BLOOD Glucose-87 UreaN-18 Creat-0.9 Na-143 
K-4.7 Cl-105 HCO3-28 AnGap-10
___ 05:58AM BLOOD Calcium-7.8* Phos-3.3 Mg-2.0

IMAGING AND DIAGNOSTICS
CT head ___:
1.  Compared with the earlier head CT from the same date, the 
subarachnoid 
hemorrhage along the bifrontal lobes and punctate bifrontal 
parenchymal 
hemorrhagic foci are evolving.   
2.  No new hemorrhage detected.  No large territorial 
infarction. 
3.  Small amount of layering fluid in the right sphenoid sinus 
is less dense than on the earlier study. 
  
CT C-spine ___:   
1. No evidence of acute cervical spinal fracture or traumatic 
malalignment.
2. Multilevel severe degenerative changes throughout the 
cervical spine. 

R femur XR ___:
Bones are demineralized, limiting evaluation for nondisplaced 
fractures, and the proximal femur is incompletely visualized on 
cross-table lateral view.  No definite right femur fracture is 
identified, however if persistent clinical concern for fracture, 
cross-sectional imaging should be obtained.  Total right knee 
arthroplasty, which appears well-seated without evidence of 
hardware complications. 

L humerus XR ___: No evidence of left humeral fracture or 
dislocation. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with CAD s/p CABG, aortic valve 
replacement, HTN, and b/l knee replacements who was transferred 
from ___ to ___ after a fall with loss of 
consciousness, found to have frontal lobe subarachnoid and 
intraparenchymal hemorrhages and new paroxysmal atrial 
fibrillation. He was transferred to medicine on ___ for syncope 
workup, which was unrevealing for the cause of his fall. 

#Fall
Patient had an unwitnessed fall with subsequent loss of 
consciousness and amnesia of the fall. He was not confused and 
did not have any reported seizure like activity. He also does 
not remember have any prodromal symptoms. EKG and telemetry 
showed atrial fibrillation but no other arrhythmia. TTE showed 
well seated aortic valve replacement and no signs of heart 
failure. ___ was consulted and recommended discharge home after 
inpatient physical therapy.

#Bifrontal lobe SAH
#Punctate bifrontal parenchymal hemorrhagic foci
Patient found to have small bifrontal lobe SAD and punctate 
bifrontal parenchymal hemorrhagic foci after headstrike. Repeat 
___ showed "evolution" of these findings. Per neurosurgery, no 
indication for surgical management. He was started on keppra 500 
mg BID for a ___ and will follow-up with 
neurosurgery outpatient. Also, per neurosurgery no therapeutic 
or prophylactic anticoagulation. 

#Pulmonary edema
Patient noted on exam to have bibasilar crackles and CXR ___ 
showed interval increase in pulmonary edema/congestion. This was 
likely from fluids given upon admission. He was given 20 mg IV 
Lasix once. 

#Paroxysmal atrial fibrillation
Patient does not have known atrial fibrillation but was in afib 
on telemetry and EKG on admission later noted to be in sinus 
with PACs. CHADSVASC score of 2 because of age. However, at this 
time the risk of bleeding with anticoagulation outweighs the 
risk; this can be discussed with outpatient team once cleared by 
neurosurgery to start anticoagulation. He was continued on home 
metoprolol and in sinus rhythm at discharge.

#Normocytic anemia
Unknown baseline and no signs of active bleeding. Work up showed 
iron deficiency with tsat ~10% and ferritin 89, as well as 
borderline B12 deficiency with B12 219. Received IV iron dextran 
while inpatient. Recommend monitoring CBC for improvement 
outpatient and considering sending MMA to evaluate for true B12 
deficiency.

#CAD
Patient with CAD s/p CABG and aortic valve replacement. He 
reported that his cardiologist and PCP have told him he no 
longer needs aspirin. 

TRANSITIONAL ISSUES:
[] Discharged on keppra for seizure ppx, last day ___
[] Consider checking MMA to evaluate for B12 deficiency
[] F/u hemoglobin to assess for response to IV iron
[] Newly diagnosed atrial fibrillation, CHADS2VASC 2. Holding 
anticoagulation in the setting of cerebral hemorrhages. Should 
not start anticoagulation until cleared by neurosurgery
[] Discuss indication for aspirin as patient has CAD and history 
of CABG

#Contact: Wife, ___

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID Duration: 7 Days 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*10 Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Frontal subarachnoid hemorrhage
Frontal intraparenchymal hemorrhage

SECONDARY DIAGNOSIS
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your hospitalization at 
the ___.

WHY WAS I ADMITTED?
=========================================================
- You fell and were found to have small bleeds in your brain.

WHAT WAS DONE FOR ME DURING MY 
H
O
S
P
I
T
A
L
I
ZATION?=========================================================
- You were seen by the neurosurgery doctors ___ surgeons), 
who did not recommend any surgery for the brain bleeds.
- You also were evaluated to find out why you may have fallen. 
This showed no problems with your heart valve that may have 
caused you to pass out.
- You were found to have an abnormal heart rhythm, called atrial 
fibrillation. This may have contributed to your fall. You will 
need to discuss this further with your primary doctor.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
=========================================================
- Please talk to your doctor about the new diagnosis of atrial 
fibrillation. Please tell your doctors about the ___ bleeds, 
and that because of this you cannot take blood thinners. 
- Please follow up with the neurosurgery doctors in one month.
- Please take the medication, Levetiracetam for a total of 7 
days; the last day is ___. 

WHAT ARE REASONS TO RETURN TO THE HOSPITAL?
=========================================================
- If you have any lightheadedness, dizziness, chest pain, 
problems breathing, any trouble speaking or moving your limbs.
- If you have any symptoms that concern you.

We wish you the best!

Warmly,
Your ___ Care Team
 
Followup Instructions:
___